* P0.0 — BVM output behavior: LOAD=1Ω (low-Z to GND)
* Same W1/R1/W0/R0 drive as frozen baseline; only SL load changes
.include ../../../circuits/models/jjmit.cir
.include ../../../circuits/bvm/bvm_cell.cir

XBVM1 WL1 BL1 SE1 SL1 BVM

* ==== SL LOAD VARIANT ====
R_LD SL1 0 1

* ============ BVM Write/Read Sequence (frozen, BASELINE.md) ============
I_WL1 0 WL1 pwl(0 0 9p 0
+ 10p 100U  20p 100U  21p 0
+ 30p 0 31p 100U  40p 100U  41p 0
+ 60p 0 61p -100U 70p -100U 71p 0
+ 80p 0 81p 100U  90p 100U  91p 0
+ 110p 0)

I_BL1 0 BL1 pwl(0 0 9p 0
+ 10p 100U  20p 100U  21p 0
+ 30p 0 41p 0
+ 60p 0 61p -100U 70p -100U 71p 0
+ 80p 0 91p 0
+ 110p 0)

I_SE1 0 SE1 pwl(0 0
+ 30p 0 31p 100U  40p 100U  41p 0
+ 80p 0 81p 100U  90p 100U  91p 0
+ 110p 0)

.tran 0.1p 110p

* BVM state (storage disturbance check)
.print P(B_JM1|XBVM1) P(B_JM2|XBVM1)
* SL output
.print I(L_SL|XBVM1) V(SL1)
.print V(WL1) V(BL1) V(SE1)
.end
