* P0.1 — DCSFQ behavior: bump waveform (edge vs level + threshold)
* Bump: rise 2ps, hold 28ps, fall 5ps (idealized BVM read envelope)
.include ../../../circuits/models/jjmit.cir
.include ../../../circuits/standard/DCSFQ.cir

.param IIN=40u

XDCSFQ IN1 OUT1 THmitll_DCSFQ
R_LOAD OUT1 0 10
I_IN 0 IN1 pwl(0 0 10p 0 12p IIN 40p IIN 45p 0)

.tran 0.1p 200p
.print V(OUT1) P(B1|XDCSFQ) P(B2|XDCSFQ) P(B3|XDCSFQ)
.end
