* BQ v4 S1.4 — 电流脉冲扫参 70/90/110/130/150uA (模板 IIN=130u)
* S1.5 — Load JTL B1 计数 = 输出 SFQ 数
* PASS 标准: JTL B1 与 Iin 正相关; 70uA ≥1, 90uA ≥2, 130uA ≥3 (计划 §4.1)
.include ../../../../circuits/models/jjmit.cir
.include ../../../../circuits/qb/bq_cell_v4.cir
.include ../../../../circuits/standard/JTL.cir

.param IIN=130u
XBQ IN1 OUT1 IBIAS BQ
I_IBIAS 0 IBIAS pwl(0 0 1p 35u)
I_IN 0 IN1 pulse(0 IIN 10p 1p 1p 5p 50p)
XJTL OUT1 JTLQ THmitll_JTL
R_JTLQ JTLQ 0 10

.tran 0.1p 300p
.print V(OUT1) V(JTLQ) P(BJS|XBQ) P(BJL1|XBQ) P(BJL2|XBQ) P(B1|XJTL) P(B2|XJTL)
.end
